US04042706
A solution of 15.2 g. of sodium nitrite in 40 ml. of water is added dropwise to a solution at 0° C. of 21.4 g. of p-toluidine and 400 ml. of 7.5% hydrochloric acid. The suspension of p-toluene diazonium chloride obtained is added dropwise at 5° C. to a mixture consisting of 36.2 g. of 2-chloroacetic acid ethyl ester, 400 ml. of 50% ethanol and 164 g. of sodium acetate. The mixture then is stirred for three hours at 20° C. and extracted with ethyl acetate. The organic phase is concentrated and the residue is treated with petroleum ether. 41 g. of 2-chloro-2-(4-methyl-phenylhydrazono)-acetic acid ethyl ester with a melting point of 100°-101° C., is obtained.

reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | hydrochloric acid | Cl | ClH
reactant | p-toluene diazonium chloride | [Cl-].C1(=CC=C(C=C1)[N+]#N)C
reactant | 2-chloroacetic acid ethyl ester | C(C)OC(CCl)=O | C4H7ClO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-chloro-2-(4-methyl-phenylhydrazono)-acetic acid ethyl ester | C(C)OC(C(=NNC1=CC=C(C=C1)C)Cl)=O | C11H13ClN2O2
